US08703996B2
In a preferred embodiment of the invention, 3-(3-(diisopropylamino)-1-phenylpropyl)-4-hydroxybenzaldehyde (PHB) is synthesized comprising a reaction of 2-amino-2-(4-hydroxyphenyl)acetic acid (hydroxyphenylglycine) with N,N-diisopropyl-3-phenylprop-2-en-1-amine (DIPCA) in the presence of an acid, preferably at 80-150° C., to give 2-amino-2-(3-(3-(diisopropylamino)-1-phenylpropyl)-4-hydroxyphenyl)acetic acid (HFG), and a further reaction with a suitable oxidant, preferably in water at 30-105° C., to give PHB. Intermediate compound HFG can be isolated. But advantageously and preferably, the synthesis from DIPCA to PHB can be carried out in one pot, without intermediate isolation of HFG.

reactant | 3-(3-(diisopropylamino)-1-phenylpropyl)-4-hydroxybenzaldehyde | C(C)(C)N(CCC(C1=CC=CC=C1)C=1C=C(C=O)C=CC1O)C(C)C | C22H29NO2
reactant | 2-amino-2-(4-hydroxyphenyl)acetic acid | NC(C(=O)O)C1=CC=C(C=C1)O | C8H9NO3
reactant | N,N-diisopropyl-3-phenylprop-2-en-1-amine | C(C)(C)N(CC=CC1=CC=CC=C1)C(C)C | C15H23N
product | 2-amino-2-(3-(3-(diisopropylamino)-1-phenylpropyl)-4-hydroxyphenyl)acetic acid | NC(C(=O)O)C1=CC(=C(C=C1)O)C(CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C23H32N2O3
